US08648066B2
1-{4-[7-(2-cyclopropyl-1H-imidazo[4,5-b]pyridin-6-yl)-2,3-dihydro-1,4-benzoxazepin-4(5H)-yl]-6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-2-yl}-N,N-dimethylmethanamine.
Prepared as acetate according to the method of example 6 by using 2-methylpropyl 2-cyclopropyl-6-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1H-imidazo[4,5-b]pyridine-1-carboxylate (reagent preparation 19) in step 1 and 1-(4-chloro-6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-2-yl)-N,N-dimethylmethanamine (reagent preparation 17) in step 3. 1H NMR (400 MHz, d6-DMSO): 8.49 (s, 1H), 7.98 (s, 1H), 7.68 (d, 1H), 7.51 (dd, 1H), 7.01 (d, 1H), 4.63 (s, 2H), 4.30 (m, 2H), 3.85 (m, 2H), 2.68 (m, 2H), 2.44 (s, 2H), 2.14 (m, 1H), 2.10 (s, 6H), 1.88 (s, 2H), 1.59 (m, 2H), 1.10 (m, 4H), 0.85 (s, 6H). MS (EI) for C31H37N7O: 524 (MH+).

reactant | acetate | C(C)(=O)[O-]
reactant | 2-methylpropyl 2-cyclopropyl-6-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1H-imidazo[4,5-b]pyridine-1-carboxylate | C1(CC1)C=1N(C=2C(=NC=C(C2)C=2C=CC3=C(CNCCO3)C2)N1)C(=O)OCC(C)C | C23H26N4O3
reactant | 1-(4-chloro-6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-2-yl)-N,N-dimethylmethanamine | ClC1=NC(=NC=2CCC(CC12)(C)C)CN(C)C | C13H20ClN3
product | 1-{4-[7-(2-cyclopropyl-1H-imidazo[4,5-b]pyridin-6-yl)-2,3-dihydro-1,4-benzoxazepin-4(5H)-yl]-6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-2-yl}-N,N-dimethylmethanamine | C1(CC1)C=1NC=2C(=NC=C(C2)C=2C=CC3=C(CN(CCO3)C3=NC(=NC=4CCC(CC34)(C)C)CN(C)C)C2)N1 | C31H37N7O
